US04556672
2-(5-Chloro-2-ureidophenyl)acetic Acid
The title compound was prepared in 43% yield by hydrolysis of N-isobutyryl-5-chloro-2-oxindole-1-carboxamide with 1N potassium hydroxide, substantially according to the procedure of Preparation 1. After hydrolysis was complete and the reaction mixture was acidified, the product precipitated. It was recovered by filtration and recrystallized from ethanol to give the title compound as colorless crystals, m.p. 187.5° C. (dec.).

reactant | N-isobutyryl-5-chloro-2-oxindole-1-carboxamide | C(C(C)C)(=O)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C13H13ClN2O3
reactant | potassium hydroxide | 1N | [OH-].[K+]
product | 2-(5-Chloro-2-ureidophenyl)acetic Acid | ClC=1C=CC(=C(C1)CC(=O)O)NC(=O)N | C9H9ClN2O3
